* NGSPICE file created from mtp_memory_wrapper.ext - technology: gf180mcuD


* Top level circuit mtp_memory_wrapper

C0 mtp_memory_wrapper_62479d0d_0/pin$13_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C1 mtp_memory_wrapper_62479d0d_0/pin$15_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C2 mtp_memory_wrapper_62479d0d_0/pin$10_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.03617f
C3 mtp_memory_wrapper_62479d0d_0/pin$12_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C4 mtp_memory_wrapper_62479d0d_0/pin$9_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C5 mtp_memory_wrapper_62479d0d_0/pin$16_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C6 mtp_memory_wrapper_62479d0d_0/pin$14_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.05362f
C7 mtp_memory_wrapper_62479d0d_0/pin$11_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# 0.03617f
C8 mtp_memory_wrapper_62479d0d_0/pin$11_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C9 mtp_memory_wrapper_62479d0d_0/pin$13_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C10 mtp_memory_wrapper_62479d0d_0/rectangle_4051c3fd_0/compass_0bf82c13_0/m1_n6000_n4000# VSUBS 78.2158f
C11 mtp_memory_wrapper_62479d0d_0/pin$15_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C12 mtp_memory_wrapper_62479d0d_0/pin$9_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C13 mtp_memory_wrapper_62479d0d_0/pin$10_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C14 mtp_memory_wrapper_62479d0d_0/pin$12_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C15 mtp_memory_wrapper_62479d0d_0/pin$14_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
C16 mtp_memory_wrapper_62479d0d_0/pin$16_0/rectangle_c6be4b6f_0/compass_3bfbf061_0/m2_n200_n200# VSUBS 0.32645f
.end

