.subckt two_trans_interdigitized VDD1 VDD2 VSS1 VSS2 VG1 VG2 VB l=0.28 w=5.0 m=1 
XA VDD1 VG1 VSS1 VB pfet_03v3 l=0.28 w=5.0 m=2
XB VDD2 VG2 VSS2 VB pfet_03v3 l=0.28 w=5.0 m=2
XDUMMY VB VB VB VB pfet_03v3 l=0.28 w=5.0 m=2
.ends two_trans_interdigitized

.subckt two_trans_interdigitized_1 VDD1 VDD2 VSS1 VSS2 VG1 VG2 VB l=0.28 w=3.0 m=1 
XA VDD1 VG1 VSS1 VB nfet_03v3 l=0.28 w=3.0 m=2
XB VDD2 VG2 VSS2 VB nfet_03v3 l=0.28 w=3.0 m=2
XDUMMY VB VB VB VB nfet_03v3 l=0.28 w=3.0 m=2
.ends two_trans_interdigitized_1

.subckt RECTIFIER RFP RFN VRECT VSS
X0 VRECT VRECT RFP RFN RFN RFP VRECT two_trans_interdigitized l=0.28 w=5.0 m={1}
X1 VSS VSS RFP RFN RFN RFP VSS two_trans_interdigitized_1 l=0.28 w=3.0 m={1}
.ends RECTIFIER

.subckt two_trans_interdigitized_2 VDD1 VDD2 VSS1 VSS2 VG1 VG2 VB l=1.0 w=4.0 m=1 
XA VDD1 VG1 VSS1 VB pfet_03v3 l=1.0 w=4.0 m=2
XB VDD2 VG2 VSS2 VB pfet_03v3 l=1.0 w=4.0 m=2
XDUMMY VB VB VB VB pfet_03v3 l=1.0 w=4.0 m=2
.ends two_trans_interdigitized_2

.subckt two_trans_interdigitized_3 VDD1 VDD2 VSS1 VSS2 VG1 VG2 VB l=1.0 w=2.0 m=1 
XA VDD1 VG1 VSS1 VB nfet_03v3 l=1.0 w=2.0 m=2
XB VDD2 VG2 VSS2 VB nfet_03v3 l=1.0 w=2.0 m=2
XDUMMY VB VB VB VB nfet_03v3 l=1.0 w=2.0 m=2
.ends two_trans_interdigitized_3

.subckt STARTUP_BIAS VRECT VMID1 VMID2 VSS
X0 VMID1 VMID2 VRECT VRECT VMID1 VMID2 VRECT two_trans_interdigitized_2 l=1.0 w=4.0 m={1}
X1 VMID1 VMID2 VSS VSS VMID1 VMID2 VSS two_trans_interdigitized_3 l=1.0 w=2.0 m={1}
.ends STARTUP_BIAS

.subckt NMOS D G S B DUM l=0.28 w=4.0
XMAIN1 D G S B nfet_03v3 l=0.28 w=4.0
XMAIN2 D G S B nfet_03v3 l=0.28 w=4.0
XDUMMY1 DUM DUM DUM B nfet_03v3 l=0.28 w=4.0
XDUMMY2 DUM DUM DUM B nfet_03v3 l=0.28 w=4.0
.ends NMOS

.subckt NDIODE P N B
X0 P P N B B NMOS l=0.28 w=4.0
.ends NDIODE

.subckt PUMP_LADDER VRECT N1 N2 VOUT VSS
X0 VRECT N1 VSS NDIODE
X1 N1 N2 VSS NDIODE
X2 N2 VOUT VSS NDIODE
.ends PUMP_LADDER

.subckt NMOS_1 D G S B DUM l=10.0 w=1.0
XMAIN1 D G S B nfet_03v3 l=10.0 w=1.0
XDUMMY1 DUM DUM DUM B nfet_03v3 l=10.0 w=1.0
XDUMMY2 DUM DUM DUM B nfet_03v3 l=10.0 w=1.0
.ends NMOS_1

.subckt NDIODE_1 P N B
X0 P P N B B NMOS_1 l=10.0 w=1.0
.ends NDIODE_1

.subckt LOAD_DIODE VOUT VSS
X0 VOUT VSS VSS NDIODE_1
.ends LOAD_DIODE

.subckt RFEH_CORE RFP RFN VRECT VOUT VSS VMID1 VMID2 N1 N2
X0 RFP RFN VRECT VSS RECTIFIER
X1 VRECT VMID1 VMID2 VSS STARTUP_BIAS
X2 VRECT N1 N2 VOUT VSS PUMP_LADDER
X3 VOUT VSS LOAD_DIODE
.ends RFEH_CORE

.subckt D05_GELOCHIP VSS RFP RFN VOUT VCC VMID1 VMID2 N1 N2
X0 RFP RFN VCC VOUT VSS VMID1 VMID2 N1 N2 RFEH_CORE
.ends D05_GELOCHIP