.subckt DP_CMBIAS VIP VIM VOP VOM VTAIL VB VSS
XM1 VOP VIP VTAIL VSS nfet_03v3 w=4 l=0.5 m=2
XM2 VOM VIM VTAIL VSS nfet_03v3 w=4 l=0.5 m=2
XM3 VB  VB  VSS   VSS nfet_03v3 w=4 l=0.5 m=2
XM4 VTAIL VB VSS  VSS nfet_03v3 w=4 l=0.5 m=2
.ends DP_CMBIAS