.subckt LVCM VG VREF VOUT VSS
XM1 N1   VG VSS VSS nfet_03v3 w=4 l=0.5 m=2
XM2 VREF VG N1  VSS nfet_03v3 w=4 l=0.5 m=2
XM3 N2   VG VSS VSS nfet_03v3 w=4 l=0.5 m=2
XM4 VOUT VG N2  VSS nfet_03v3 w=4 l=0.5 m=2
.ends LVCM