.subckt OTA VIP VIM VOUT VX VTAIL VBIAS VDD VSS
XM1 VX   VIP VTAIL VSS nfet_03v3 w=4 l=0.5 m=2
XM2 VOUT VIM VTAIL VSS nfet_03v3 w=4 l=0.5 m=2
XM3 VX   VX  VDD   VDD pfet_03v3 w=8 l=0.5 m=2
XM4 VOUT VX  VDD   VDD pfet_03v3 w=8 l=0.5 m=2
XM5 VTAIL VBIAS VSS VSS nfet_03v3 w=8 l=0.5 m=2
.ends OTA